US04985180
Preparation of 4-(dimethyloctylaminoacetoxy) benzene sulfonic acid.
To a stirred slurry of 54.5 g (0.2 mole) of 4-(chloroacetyloxy)benzene sulfonic acid, a sodium salt, in 250 mL of dimethylacetamide was added dropwise over 15 minutes 31.5 g (0.2 mole) of dimethyloctylamine. After stirring for an additional 3 hours, the contents of the flask became a solid mass. This was slurried with 200 mL of acetone, filtered, washed twice with 250 mL potions of acetone and dried at 50°-60° C. under reduced pressure to give 74 g of product. 1H NMR (DMSO-d6) δ0.9 (t, 3H), 1.24 (m, 10H), 1.6 (m, 2H), 3.3 (s, 6H), 3.5 (m 2H), 4.95 (s, 2H), 7.1 (d, 2H), 7.7 (d, 2H).

reactant | 4-(chloroacetyloxy)benzene sulfonic acid | 0.2 mole, 54.5 g | ClCC(=O)OC1=CC=C(C=C1)S(=O)(=O)O | C8H7ClO5S
reactant | sodium | [Na] | Na
reactant | dimethyloctylamine | 0.2 mole, 31.5 g | CN(CCCCCCCC)C | C10H23N
reactant | acetone | 200 mL | CC(=O)C | C3H6O
reactant | dimethylacetamide | 250 mL | CC(=O)N(C)C | C4H9NO
product | 4-(dimethyloctylaminoacetoxy) benzene sulfonic acid | 74 g | CC(C(=O)OC1=CC=C(C=C1)S(=O)(=O)O)(NCCCCCCCC)C | C18H29NO5S
